US05158966
5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-hydroxy-3-methyl-4-thiazolidinone
12.56 g of 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-3-methyl-4-thiazolidinone, 1-oxide (the compound of Example 12) was dissolved in 216 ml of methylene chloride and the resultant solution cooled to -78° C. Separately, 6.1 ml of trifluoroacetic anhydride and 72 ml of methylene chloride were placed in a dropping funnel and the solution added dropwise over a 40-minute period (temperature maintained at or below -70° C.) to the previously prepared solution of the compound of Example 12 in methylene chloride. The resulting reaction mixture was stirred at -75° C. for 1 hour, then warmed to 0° C. over 45 minutes, diluted with a volume of methylene chloride, washed with two volumes of water, dried over sodium sulfate and subsequently filtered and evaporated to give 15.8 g of the desired titled product and trace impurities. This product was dissolved in 25 ml of warm ethyl acetate and then added to 450 ml of hexane. As the solution cooled, it became milky and an additional 5 ml of ethyl acetate was added and swirled to clarify. The solution was then allowed to cool to room temperature with precipitate forming overnight. The precipitate was collected by filtration, washed with hexane and dried at room temperature in vacuo overnight. The resultant product was further worked up by adding it to 30 ml of hot ethyl acetate, to which was added an additional 150 ml of hexane. A precipitate began to form. The mixture was allowed to cool to room temperature and stand for 6 hours, after which it was filtered, washed with a volume of hexane and dried in vacuo at 50° C. overnight to render 8.83 g of the desired titled product, m.p. 165-170° C.

reactant | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-3-methyl-4-thiazolidinone | 12.56 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N(CS1)C)=O | C19H27NO2S
reactant | trifluoroacetic anhydride | 6.1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 216 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 72 ml | C(Cl)Cl | CH2Cl2
product | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-hydroxy-3-methyl-4-thiazolidinone | 15.8 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N(C(S1)O)C)=O | C19H27NO3S
